US07932281B2
Synthesis of 3-dipropylaminomethyl-benzoic acid methyl ester
In DMF (12.5 ml), 3-bromomethyl benzoic acid methyl ester (831 mg) was dissolved. The solution was added with dipropylamine (971 μl) and the whole was stirred at room temperature for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was dissolved in chloroform and washed with a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with chloroform. The organic layer was washed with a saturated saline solution and dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off under reduced pressure, thereby obtaining the subject compound (858 mg) as a brown solid.

reactant | 3-bromomethyl benzoic acid methyl ester | 831 mg | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | dipropylamine | 971 μl | C(CC)NCCC | C6H15N
solvent | DMF | 12.5 ml | CN(C)C=O | C3H7NO
product | 3-dipropylaminomethyl-benzoic acid methyl ester | 858 mg | COC(C1=CC(=CC=C1)CN(CCC)CCC)=O | C15H23NO2
